US09126993B2
1-(1-azabicyclo[2.2.2]oct-3-yl)-3-[2-(biphenyl-3-yl)propan-2-yl]urea
Using general procedure E, 1-(1-azabicyclo[2.2.2]oct-3-yl)-3-[2-(3-bromophenyl)propan-2-yl]urea (111 mg, 0.301 mmol), phenylboronic acid (78.8 mg, 0.606 mmol) and tetrakis(triphenylphosphine)palladium(0) gave the title compound as an off-white solid (21 mg, 11%). 1H NMR (400 MHz, CDCl3) δ 7.74 (s, 1H), 7.52-7.40 (m, 8H), 4.89 (s, 1H), 4.28 (d, J=7.3 Hz, 1H), 3.75-3.59 (m, 1H), 3.15 (ddd, J=1.9, 9.3, 13.9 Hz, 1H), 2.46 (m, 4H), 2.05 (dd, J=3.5, 14.0 Hz, 1H), 1.68 (d, J=4.7 Hz, 6H), 1.66-0.76 (m, 5H) ppm. 13C NMR (100 MHz, CDCl3) δ 157.4, 146.9, 142.5, 141.1, 129.7, 129.1, 127.8, 127.4, 126.7, 124.8, 124.7, 57.1, 55.1, 30.7, 30.1, 26.1, 26.0, 20.2 ppm. Purity: 100% UPLCMS (210 nm); retention time 0.78 min; (M+1) 364.0.

reactant | 1-(1-azabicyclo[2.2.2]oct-3-yl)-3-[2-(3-bromophenyl)propan-2-yl]urea | 0.301 mmol, 111 mg | N12CC(C(CC1)CC2)NC(=O)NC(C)(C)C2=CC(=CC=C2)Br | C17H24BrN3O
reactant | phenylboronic acid | 0.606 mmol, 78.8 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(1-azabicyclo[2.2.2]oct-3-yl)-3-[2-(biphenyl-3-yl)propan-2-yl]urea | 21 mg, 11% | N12CC(C(CC1)CC2)NC(=O)NC(C)(C)C=2C=C(C=CC2)C2=CC=CC=C2 | C23H29N3O
